US06077866
To an acetonitrile solution (500 ml) of 4-cyanobenzyl bromide (50 g), 15% methyl mercaptan sodium salt (120 ml) was added at a room temperature and heated for 6 hours with refluxing. After cooling to a room temperature, water (1 l) and toluene (1 l) was added thereto. The organic layer was separated and washed successively with an aqueous 2N sodium hydroxide solution sulfate. After distilling off the solvent, 4-methylmercaptomethylbenzonitrile (38 g) was obtained.

reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
reactant | 4-cyanobenzyl bromide | 50 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | methyl mercaptan sodium salt | 120 ml | [Na].CS
reactant | water | 1 l | O | H2O
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | 4-methylmercaptomethylbenzonitrile | 38 g | CSCC1=CC=C(C#N)C=C1 | C9H9NS
